US07612075B2
B. 3-Fluorophenoxy-acetic acid.
To a solution of ethyl 3-fluorophenoxy-acetate (2 g, 10 mmol) in 24 mL of a 1:1:1 solution of MeOH:H2O:THF is added lithium hydroxide monohydrate (2.25 g, 54 mmol). The solution is stirred for 16 hours. After this time, the solution is concentrated under reduced pressure to ⅓ of its volume. The remaining solution is acidified to pH=3 with 1N HCl (aq.). The aqueous solution is extracted with EtOAc. The organic layer is washed with a saturated solution NaCl (aq.). The organic layer is dried over MgSO4, filtered and concentrated to give the product (1.65 g, 9.7 mmol) as a white solid. 1H NMR (CDCl3, 300 MHz) δ9.8 (bs, 1H), 7.28 (m, 1H), 6.69 (m, 3H), 4.70 (s, 2H).

reactant | ethyl 3-fluorophenoxy-acetate | 10 mmol, 2 g | FC=1C=C(OCC(=O)OCC)C=CC1 | C10H11FO3
reactant | MeOH | CO | CH4O
reactant | H2O | O | H2O
reactant | lithium hydroxide monohydrate | 54 mmol, 2.25 g | O.[OH-].[Li+]
solvent | THF | C1CCOC1 | C4H8O
product | 3-Fluorophenoxy-acetic acid | 9.7 mmol, 1.65 g | FC=1C=C(OCC(=O)O)C=CC1 | C8H7FO3
